US06413971B1
(3-Ethynyl-phenyl)-(5-thiophen-2-yl-7H-pyrrolo[2,3-d]pyrimidin4-yl]-amine
Following the procedure described in Example 26, the title compound was prepared in 40% yield from 7-Benzenesulfonyl-4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine and thiophene-2-boronic acid followed by coupling with m-aminophenyl acetylene (27 mg, 0.233 mmoles) in methanol: MP: 230-232° C.; TS-MS: 317 (MH+); anal. RP18-HPLC RT: 5.614 minutes.

reactant | 7-Benzenesulfonyl-4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=C1N=CN=C2Cl)I | C12H7ClIN3O2S
reactant | thiophene-2-boronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | m-aminophenyl acetylene | 0.233 mmoles, 27 mg | NC=1C=C(C=CC1)C#C | C8H7N
solvent | methanol | CO | CH4O
product | (3-Ethynyl-phenyl)-(5-thiophen-2-yl-7H-pyrrolo[2,3-d]pyrimidin4-yl]-amine | 40% yield | C(#C)C=1C=C(C=CC1)NC=1C2=C(N=CN1)NC=C2C=2SC=CC2 | C18H12N4S
